US07745462B2
5,7-Dihydro-[1]pyrindine-6,6-dicarboxylic acid diethyl ester (0.953 g, 3.62 mmol) is taken into concentrated hydrochloric acid, heated to reflux for 4 hours and evaporated to afford 6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid hydrochloride. δc (DMSO-d6) 33.9 (t), 34.5 (t) 41.2 (d), 124.8 (d), 140.1 (d), 140.8 (d), 141.2 (s), 158.4 (s), 175.2 (s).

reactant | 5,7-Dihydro-[1]pyrindine-6,6-dicarboxylic acid diethyl ester | 3.62 mmol, 0.953 g | C(C)OC(=O)C1(CC=2C=CC=NC2C1)C(=O)OCC | C14H17NO4
reactant | hydrochloric acid | Cl | ClH
product | 6,7-dihydro-5H-[1]pyrindine-6-carboxylic acid hydrochloride | Cl.N1=CC=CC=2CC(CC12)C(=O)O | InChI=1S/C9H9NO2.ClH/c11-9(12)7-4-6-2-1-3-10-8(6)5-7;/h1-3,7H,4-5H2,(H,11,12);1H
